Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
suicidal ideation
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ ___ at ___ with bipolar disorder who presented to the 
ED with depression and suicidal ideation, transferred over to 
L&D for fetal evaluation.  

Pt has an extensive psychiatric history, notable for bipolar 
disorder, multiple suicide attempts, multiple hospitalizations. 
She is followed by a therapist regularly. She has been on 
several medications in the past. She was on celexa, zyprexa, and 
thorazine at the beginning of pregnancy, but they were 
discontinued around 6 weeks. She was doing well in this 
pregnancy until about 2 months ago when she began feeling 
increasingly depressed, endorsing hopelessness and helplessness. 
Two weeks ago, pt developed suicidal thoughts with plan to jump 
off ___ Bridge, though did not attempt. She has continued 
to have these thoughts intermittently. She has a lot of social  
tressors, related to housing, living in separate shelter from 
her husband,
difficulty securing housing over the past year. She was seen by 
her outpatient therapist today, who recommend she present to the 
___ ED for inpatient evaluation.

In the ED, she was seen by psychiatry, who indicated that pt met 
___ criteria for involuntary admission, with 1:1 
observation, and plan for bed search for inpatient psychiatric 
hospitalization for stabilization and medication mgmt. Did not 
think that patient would require chemical restraints. Given 
pregnancy at viable GA, patient transferred over to OB triage 
for eval and antepartum admission.

In triage, patient reports overall feeling okay. Describes 
herself as being "stressed" and "overwhelmed," "need to regroup 
and get my mind right." Endorse mild nasal congestion, sore 
throat and head fullness for past day, attributed to a  URI. No 
other concerns or complaints. Denies abdominal or pelvic pain, 
vaginal bleeding, abnormal discharge, fevers, chills, malaise, 
urinary or GI issue. Active FM. Denies illicit drug use or 
trauma.

 
Past Medical History:
PNC: 
- ___ ___
- Labs not available for review
- Screening, FFS, GLT all wnl, per pt report; male fetus
- U/S not available for review
- Issues:
#Prenatal care: Reports good compliance with prenatal care, 
initial OB around ___ weeks, with subsequent visits q3-4 weeks, 
last on ___, with next PNV scheduled at ___
#cHTN: Previously on meds, does not remember names, discontinued 
by OB around 6 weeks
#Bipolar disorder: see below
#Complex psychosocial situation, housing situation: lives in 
shelter. FOB/husband lives in separate shelter. Two prior 
children not in her custody 
 
OBHx:
- ___
- SVD, 37wks, 6#8, BMC, ___ ago
- SVD, 40wks, 6#12, BMC, ___ ago
- SAB x 2
- Ectopic pregnancy, treated with LSC L salpingectomy
 
GynHx:
- regular periods
- reports hx abnormal Pap, requiring colposcopy only, denies
surgeries
- hx gonorrhea, chlamydia at age ___ denies herpes or other STIs
- denies fibroids, ovarian cysts, endometriosis
- not on contraception since ___

PMH: 
- Chronic HTN: diagnosed in ___. On medications, stopped in 
early pregnancy, does not remember meds. Denies HTN or PEC with 
prior pregnancies. 
- Bipolar disorder: followed by ___ (therapist) at ___, and psychiatrist Dr. ___. History of 
multiple hospitalizations and inpatient stays, assaultive 
behaviors, multiple suicide attempts. On celexa, zyprexa, and 
thorazine for past ___ years, but discontinued in early pregnancy. 

- Hx trauma, rape, PTSD
- Denies asthma, hypothyroidism, VTE

PSH: 
- LSC L salpingectomy
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VS: 127/60, HR ___
Gen: A&O, comfortable
Psych: mood "okay," affect congruent, appropriate and pleasant, 
good historian
Pulm: nl resp effort
Abd: soft, gravid, nontender
Ext: no calf tenderness
Pelvic: deferred

Toco: flat
FHT: 165-->155/moderate varability/+accels/-decels

BPP: ___
TAUS: breech, AFI 15cm, EFW 968g 
 
Pertinent Results:
___ WBC-14.9 RBC-4.43 Hgb-12.1 Hct-37.9 MCV-86 Plt-212
___ Neuts-81.4 ___ Monos-7.9 Eos-1.3 Baso-0.3 Im 
___ AbsNeut-___ AbsLymp-1.28 AbsMono-1.17 AbsEos-0.20 
AbsBaso-0.04

___ Glucose-90 UreaN-10 Creat-0.6 Na-135 K-4.0 Cl-101 
HCO3-23 AnGap-15
___ UreaN-7 Creat-0.6 ALT-16 AST-14 UricAcd-4.4

___ BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

___ URINE Blood-NEG Nitrite-NEG Protein-NEG Glucose-NEG 
Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ URINE Hours-RANDOM Creat-87 TotProt-10 Prot/Cr-0.1
___ URINE bnzodzp-NEG barbitr-NEG opiates-NEG cocaine-NEG 
amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
Ms. ___ is a ___ ___ with cHTN (no meds) and bipolar 
disorder who presented with suicidal ideation and admitted to 
the Antepartum service under ___ for inpatient monitoring 
while awaiting bed placement in a psychiatric facility.

*) Suicidal ideation, bipolar disorder, depressive episode:
- Not on meds
- s/p ED psychiatry consult, who continued to follow throughout 
her admission to antepartum 
- BEST team was consulted and continued to follow to facilitate 
placement
- She was monitored closely with a 1:1 sitter throughout her 
admission

*) cHTN, not on antihypertensives:
- Continue ASA 81mg daily
- Her blood pressures remained stable and appropriate. She did 
not require new medication or intervention for blood pressure 
control.

*) FWB: 
- Reactive and reassuring NST, mild tachycardia improved with 
IVF, very active fetus
- Well-grown
- No indication for betamethasone given reassuring testing
- NICU consult deferred given no obstetric issues

She remained stable from an obstetric standpoint for the 
duration of her admission to the Antepartum service. She was 
discharged to the inpatient psychiatric facility for further 
psychiatric care. She will follow up as scheduled as an 
outpatient for further prenatal management.

 

 
Medications on Admission:
PNV
ASA 81mg daily
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Prenatal Vitamins 1 TAB PO DAILY
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
suicidal ideation
 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.
 
Discharge Instructions:
Ms. ___,

You were admitted to the antepartum service in the setting of 
expressing suicidal thoughts. For your safety, you were admitted 
to the hospital for close monitoring and help.
 
Followup Instructions:
___